US07919508B2
Scheme E, Step E1 N-{(1R,3S)-5-Isopropoxy-6-methyl-3-[1-(2-phenyl-butyryl)-piperidin-4-yl]-isochroman-1-ylmethyl}formamide
Stir a solution of N-((1R,3S)-5-isopropoxy-6-methyl-3-(4-piperidinyl)-1-isochromanyl-methyl)formamide (200 mg, 0.58 mmole) in dichloromethane (3 mL), cool to 10° C. and add 2-phenylbutyryl chloride (115 mg, 0.64 mmole) and triethylamine (88 mg, 0.87 mmole). Allow to warm to room temperature and pour into dilute HCl. Separate the layers an extract the aqueous layer two times with 4 mL of dichloromethane. Wash the combined organic extracts with water and dry over Na2SO4. Purify the crude product on a 10 g silica gel column (eluting with ethyl acetate:heptane 3:1). Collect the appropriate fractions and concentrate to obtain the title compound. It was used without further purification in the next step.

reactant | N-((1R,3S)-5-isopropoxy-6-methyl-3-(4-piperidinyl)-1-isochromanyl-methyl)formamide | 0.58 mmole, 200 mg | C(C)(C)OC1=C2C[C@H](O[C@H](C2=CC=C1C)CNC=O)C1CCNCC1 | C20H30N2O3
reactant | 2-phenylbutyryl chloride | 0.64 mmole, 115 mg | C1(=CC=CC=C1)C(C(=O)Cl)CC | C10H11ClO
reactant | triethylamine | 0.87 mmole, 88 mg | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-{(1R,3S)-5-Isopropoxy-6-methyl-3-[1-(2-phenyl-butyryl)-piperidin-4-yl]-isochroman-1-ylmethyl}formamide | C(C)(C)OC1=C2C[C@H](O[C@H](C2=CC=C1C)CNC=O)C1CCN(CC1)C(C(CC)C1=CC=CC=C1)=O | C30H40N2O4
